US05696129
tert-Butyl 6-amino-2-fluoropyridine-3-carboxylate (0.7 g, 0.0033 mol) in EtOH (25 ml) was treated with potassium tert-butoxide (0.39 g, 0.0035mol) and the mixture was heated under reflux overnight. After cooling to room temperature, saturated NaHCO3 solution was added and the precipitated solid was collected by filtration and dried/n vacuo to give tert-butyl 6-amino-2-ethoxypyridine-3-carboxylate(0.6 g).

reactant | tert-Butyl 6-amino-2-fluoropyridine-3-carboxylate | 0.0033 mol, 0.7 g | NC1=CC=C(C(=N1)F)C(=O)OC(C)(C)C | C10H13FN2O2
reactant | potassium tert-butoxide | 0.0035mol, 0.39 g | CC(C)([O-])C.[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 25 ml | CCO | C2H6O
product | tert-butyl 6-amino-2-ethoxypyridine-3-carboxylate | 0.6 g | NC1=CC=C(C(=N1)OCC)C(=O)OC(C)(C)C | C12H18N2O3
